US07585875B2
A mixture of 6.4 g (40 mmol) of 2-isopropylpyrazolo[1,5-a]pyridine, 3.7 g (40 mmol) of propionyl chloride and 400 mg of AlCl3 was stirred at RT in 5 ml of CS2 for 3 days. The mixture was quenched with saturated NH4Cl and extracted with EtOAc to provide 5.44 g of crude 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one, which was purified on a silica gel column to yield 700 mg of pure intermediate along with 3.53 g of starting material. 700 mg of 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one was reacted with 600 μl of 1M t-BuOK in t-BuOH at −20° C. for 20 minutes, followed by the addition of 600 μl of isoamylnitrite at 0° C. and stirring at RT overnight. The mixture was quenched with saturated NH4Cl and extracted with EtOAc to provide 1.2 g of crude product, which was purified on a silica gel column to furnish 314 mg of (Z)-2-(hydroxyimino)-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one. Compound 1083.

reactant | 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one | 700 mg | C(C)(C)C1=NN2C(C=CC=C2)=C1C(CC)=O | C13H16N2O
reactant | t-BuOK | 1M, 600 μl | CC(C)(C)[O-].[K+]
reactant | isoamylnitrite | 600 μl | C(CC(C)C)ON=O | C5H11NO2
solvent | t-BuOH | CC(C)(C)O | C4H10O
product | (Z)-2-(hydroxyimino)-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one | 314 mg | O\N=C(/C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)\C | C13H15N3O2
